US07858654B2
A mixture of 5-iodo-4′-methyl-biphenyl-3-carboxylic acid methyl ester (2.0 g, 5.7 mmol), 2-ethyl-imidazole (1.1 g, 11.4 mmol), (L)-proline (0.26 g, 2.28 mmol), CuI (0.22 g, 1.14 mmol) and K2CO3 (1.57 g, 11.4 mmol) in DMSO (30 mL) was flushed with N2, then heated to 100° C. overnight. After cooling to room temperature, the reaction mixture was extracted with EtOAc. The combined organic layers were separated, washed with water, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography to afford 5-(2-ethyl-imidazol-1-yl)-4′-methyl-biphenyl-3-carboxylic acid methyl ester as a white solid (750 mg, 41.1%).

reactant | 5-iodo-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 5.7 mmol, 2.0 g | COC(=O)C=1C=C(C=C(C1)I)C1=CC=C(C=C1)C | C15H13IO2
reactant | 2-ethyl-imidazole | 11.4 mmol, 1.1 g | C(C)C=1NC=CN1 | C5H8N2
reactant | (L)-proline | 2.28 mmol, 0.26 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | K2CO3 | 11.4 mmol, 1.57 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
catalyst | CuI | 1.14 mmol, 0.22 g | [Cu]I
product | 5-(2-ethyl-imidazol-1-yl)-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 750 mg, 41.1% | COC(=O)C=1C=C(C=C(C1)N1C(=NC=C1)CC)C1=CC=C(C=C1)C | C20H20N2O2
